US08084448B2
C. 2-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-2-methylpropionic Acid
A solution of 2{(E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acryloylamino}-2-methylpropionic acid (40 mg) in EtOAc (4 mL) is hydrogenated at 1 atm over 20 mg of 10% Pd/C for 24 h. The catalyst is filtered through Celite and the solvent removed under reduced pressure to give the title compound as a yellow solid: (M−1)−=384, HPLC retention time=0.71 min. (Method A).

reactant | 2{(E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acryloylamino}-2-methylpropionic acid | 40 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/C(=O)NC(C(=O)O)(C)C | C22H23N3O7S
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 2-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-2-methylpropionic Acid | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCC(=O)NC(C(=O)O)(C)C | C15H19N3O7S
